US09062028B2
Step A. 3-((4-Bromo-1H-pyrazol-1-yl)methyl)benzoic acid
The title compound was prepared using a procedure analogous to Example 2 except that methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate was replaced by methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate. LCMS, [M+H]+=281.0.

reactant | methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC(=NC=C2)C(=O)OC)C=CC=C1C | C28H30N2O4
reactant | methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate | BrC=1C=NN(C1)CC=1C=C(C(=O)OC)C=CC1 | C12H11BrN2O2
product | 3-((4-Bromo-1H-pyrazol-1-yl)methyl)benzoic acid | BrC=1C=NN(C1)CC=1C=C(C(=O)O)C=CC1 | C11H9BrN2O2
